US05162524
4-Nitrobenzyl 2-[(3R,4R)-4-(p-toluenesulfonylthio)-3-phenoxyacetamido-2-oxo-azetidin-1-yl]-2,3-butadienoate (Ie)
A solution of 4-nitrobenzyl 2-[(3R,4R)-4-(p-toluenesulfonylthio)-3-phenoxyacetamido-2-oxo-azetidin-1-yl]-3-methanesulfonyloxy-2-butenoate (XVc, 0.0714 g, 0.00010 mole) in chloroform (1 mL) was treated with triethylamine (0.014 mL, 0.00010 mole) at room temperature. After a period of 1 h, reverse-phase C-18 HPLC indicated consumption of the starting material with formation of a single new peak (eluting phase 65% acetonitrile and 35% 0.01M phosphate pH 6.5 buffer). Dilute hydrochloric acid (chilled at 0° C.) and ethyl acetate were added. The organic layer was washed with cold water, dried (sodium sulfate) and concentrated to give 0.0615 g (ca. 100%) of the title compound as a foam. The product was characterized by its 1H-NMR spectrum.

reactant | 4-nitrobenzyl 2-[(3R,4R)-4-(p-toluenesulfonylthio)-3-phenoxyacetamido-2-oxo-azetidin-1-yl]-3-methanesulfonyloxy-2-butenoate | 0.00010 mole, 0.0714 g | C1(=CC=C(C=C1)S(=O)(=O)S[C@@H]1[C@@H](C(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(C)OS(=O)(=O)C)=O)NC(COC1=CC=CC=C1)=O)C | C30H29N3O12S3
reactant | triethylamine | 0.00010 mole, 0.014 mL | C(C)N(CC)CC | C6H15N
solvent | chloroform | 1 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-Nitrobenzyl 2-[(3R,4R)-4-(p-toluenesulfonylthio)-3-phenoxyacetamido-2-oxo-azetidin-1-yl]-2,3-butadienoate | 0.0615 g, ca. 100% | C1(=CC=C(C=C1)S(=O)(=O)S[C@@H]1[C@@H](C(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C=C)=O)NC(COC1=CC=CC=C1)=O)C | C29H25N3O9S2
